US04151291
0.10 mole resorcinol and 0.12 mole sodium diethyl oxalacetate is heated to 80° C. for 1 hour in 60 ml concentrated phosphoric acid. 4-Carbethoxy-7-hydroxy-coumarin is thus obtained at an 80% yield in the form of a viscous oil.

reactant | resorcinol | 0.10 mole | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | sodium diethyl oxalacetate | 0.12 mole | C(CC(=O)C(=O)OCC)(=O)OCC.[Na]
solvent | phosphoric acid | 60 ml | P(O)(O)(O)=O | H3O4P
product | 4-Carbethoxy-7-hydroxy-coumarin | 80% yield | C(=O)(OCC)C1=CC(OC2=CC(=CC=C12)O)=O | C12H10O5
